Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins / Tetracycline / Sulfa (Sulfonamides)
 
Attending: ___
 
Chief Complaint:
Severe tracheobronchomalacia.

 
Major Surgical or Invasive Procedure:
___ Rigid Bronchoscopy with Silicone Y stent placment, 
endobronchial

 
History of Present Illness:
Ms. ___ is a ___ year-old female with known Severe 
tracheobronchomalacia.  She has been admitted for further 
work-up, evaluation and treatment.

 
Past Medical History:
Tracheostomy & PEG ___
Aspiration Pneumonia MRSA
Right Upper extremity DVT 
Atrial Tachycardia
TAH
Appendectomy

 
Social History:
___
Family History:
NC
 
Physical Exam:
VS: T: 98.9   HR: 84 SR   BP: 120/60  Sats: 93% TM
General: NAD
Neck: Trach site clean
HR: RRR
Lungs: bibasilar crackles
GI: abdomen benign.  PEG site clean
Extr:warm, no edema

 
Brief Hospital Course:
Ms. ___ was admitted on ___ for evaluation and treatment 
for severe tracheal bronchialmalacia.  Upon admission she had a 
CT TRACHEA prior to going to the operating for Rigid 
bronchoscopy, Flexible bronchoscopy. Therapeutic aspiration of 
secretions. Placement of Y-stent with the following 
measurements: The tracheal limb is 5.5 cm x 16 mm, right 
mainstem limb measured 1 cm x 13 mm and the left mainstem limb 
measured 2.5 cm x 13 mm. Endobronchial brushing of right middle 
lobe endobronchial lesion.  She tolerated the procedure was 
monitored in the PACU prior to transfer to the floor.  She had 
PFTs with a 6 minute walk.  Her tube feeds were restarted at her 
goal.  She continued to do well and was transferred back to 
rehab.
She will follow-up in 2 weeks for bronchoscopy and further 
management.

 
Medications on Admission:
Nystatin 100,000 unit/mL Suspension Sig: Five (5) cc PO Q8H 
(every 8 hours).  Ferrous Sulfate 325 mg (65 mg Iron) Tablet 
Sig: One (1) Tablet PO DAILY  
Miconazole Nitrate 2 % Powder Sig: One (1) Appl Topical BID (2 
times a day) PRN
Lorazepam 1 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) as 
needed.  
Polyvinyl Alcohol-Povidone 1.4-0.6 %Dropperette Sig: ___ Drops 
Ophthalmic PRN   
Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO Q4H 
PRN
Ipratropium Bromide 0.02 % Solution Sig: Three (3) ml Inhalation 
Q6H 
Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
Senna 8.6 mg Tablet Sig: Two (2) Tablet PO BID (2 times a day) 
as needed.  
Amiodarone 200 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO BID (2 
times a day) as needed.  
Enoxaparin 80 mg/0.8 mL Syringe Sig: Seventy (70) mg 
Subcutaneous BID (2 times a day).  
Haloperidol 2 mg Tablet Sig: One (1) Tablet PO four times a day 
as needed for agitation.  
Xopenex 0.63 mg/3 mL Solution for Nebulization Sig: Three (3) ml 
Inhalation every six (6) hours.  

 
Discharge Medications:
1. Nystatin 100,000 unit/mL Suspension Sig: Five (5) cc PO Q8H 
(every 8 hours).  
2. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
3. Miconazole Nitrate 2 % Powder Sig: One (1) Appl Topical BID 
(2 times a day) as needed.  
4. Lorazepam 1 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed.  
5. Polyvinyl Alcohol-Povidone 1.4-0.6 % Dropperette Sig: ___ 
Drops Ophthalmic PRN (as needed).  
6. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed.  
7. Ipratropium Bromide 0.02 % Solution Sig: Three (3) ml 
Inhalation Q6H (every 6 hours).  
8. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
9. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day) as needed.  
10. Amiodarone 200 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO BID (2 
times a day) as needed.  
12. Enoxaparin 80 mg/0.8 mL Syringe Sig: Seventy (70) mg 
Subcutaneous BID (2 times a day).  
13. Guaifenesin 100 mg/5 mL Syrup Sig: Fifteen (15) ML PO BID (2 
times a day) as needed for secretion management.  
14. Haloperidol 2 mg Tablet Sig: One (1) Tablet PO four times a 
day as needed for agitation.  
15. Xopenex 0.63 mg/3 mL Solution for Nebulization Sig: Three 
(3) ml Inhalation every six (6) hours.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Severe Trachaelmalacia
Tracheostomy & PEG ___
Aspiration Pneumonia MRSA
Right Upper extremity DVT 
Atrial Tachycardia
TAH

 
Discharge Condition:
stable

 
Discharge Instructions:
Call Interventional Pulmonology if develops increased shortness 
of breath, cough w/production, chest pain

 
Followup Instructions:
___